US03970661
A mixture of 12.8 g (0.1 mole) of 2-aminomethyl-1-ethyl pyrrolidine and 22.2 g (0.11 mole) of triethylamine was added at a temperature ≤20°C, to a solution of 23.5 g (0.1 mole) of 3-chlorocarbonyl-6-acetamido pyridine hydrochloride (itself prepared starting from 6-acetamido nicotinic acid) in 250 ml of anhydrous dimethylformamide. After the completion of the addition, the mixture was heated to 50°C for 1 hour then dimethylformamide was eliminated under reduced pressure. The oily residue was triturated with 200 ml of water and 100 ml of ether. The so-obtained base crystallized and there were obtained 17.4 g of 2-(6-acetamido nicotinamidomethyl)-1-ethyl pyrrolidine in the form of beige crystals melting (Kofler) at 162°-163°C. This compound was deacetylated according to the above described method and there were finally obtained 9.8 g of 2-(6-amino nicotinamidomethyl)-1-ethyl pyrrolidine, melting (Kofler) at 136°C.

reactant | 2-aminomethyl-1-ethyl pyrrolidine | 0.1 mole, 12.8 g | NCC1N(CCC1)CC | C7H16N2
reactant | triethylamine | 0.11 mole, 22.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-chlorocarbonyl-6-acetamido pyridine hydrochloride | 0.1 mole, 23.5 g | Cl.ClC(=O)C=1C=NC(=CC1)NC(C)=O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 2-(6-acetamido nicotinamidomethyl)-1-ethyl pyrrolidine | 17.4 g | C(C)(=O)NC1=NC=C(C(=O)NCC2N(CCC2)CC)C=C1 | C15H22N4O2
